US09162992B2
To a dichloromethane solution (100 mL) of 2-amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (8.7 g, 52 mmol) was added Et3N (26 g, 260 mmol) and the mixture was stirred at −30° C. After this time, TBDMSOTf (15.1 g, 57.2 mmol) was added in a slow dropwise manner and the resultant reaction was stirred at ambient temperature for 1.5 h. The observed solid material completely dissolved to form a light brown solution. The mixture was then quenched with 1 N NaOH (100 mL) and extracted with DCM (250 mL). The organic layer was washed with H2O (150 mL) and then with a brine solution (150 mL) and dried over Na2SO4. The solvents were removed in vacuo and the residue was purified by flash column chromatography (PE/EtOAc=10/1 to 5/1) to afford 2-(t-butyl-dimethylsilyl)amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (CXXII, 11.4 g, 79%) as a light yellow solid. LCMS: (ESI) m/z=283 (M+H)+.

reactant | 2-amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 52 mmol, 8.7 g | NC=1N=C(C2=C(N1)NC=C2)Cl | C6H5ClN4
reactant | Et3N | 260 mmol, 26 g | CCN(CC)CC | C6H15N
reactant | TBDMSOTf | 57.2 mmol, 15.1 g | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-(t-butyl-dimethylsilyl)amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 11.4 g, 79% | [Si](C)(C)(C(C)(C)C)NC=1N=C(C2=C(N1)NC=C2)Cl | C12H19ClN4Si
